US04284582
A mixture of ethyl cyanoacetate (12.44 parts), 1,1-dichloro-4-methylpenta-1,3diene (15.1 parts), lithium chloride monohydrate (6.26 parts), cupric acetate monohydrate, and in one case potassium acetate, as indicated in the table below, in acetonitrile (100 parts by volume), is heated and chlorine is added at a uniform rate, heating being continued for a further period. After cooling the reaction mixture the acetonitrile is removed by distillation under reduced pressure and the ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate is isolated as described for Examples 41 to 48. The yield, strength and composition of the product, together with other preparative details, are given in the table below.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,1-dichloro-4-methylpenta-1,3diene | ClC(=CC=C(C)C)Cl | C6H8Cl2
reactant | lithium chloride monohydrate | O.[Cl-].[Li+]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | chlorine | ClCl | Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate | C(#N)C1(C(C1C=C(Cl)Cl)(C)C)C(=O)OCC | C11H13Cl2NO2
